US04536512
A stirred mixture of 2-thiocyano-pyrrole (8.7 g, 0.07 m; J. Org. Chem., 22 (1957) 1500), 1,2-dibromoethane (155 ml) and methanol (140 ml) was ice-bath cooled in an oxygen-free atmosphere, and sodium methoxide (9.5 g, 0.17 m) added. The resultant highly-colored mixture was allowed to stir cold and then at ambient temperature overnight. The resultant mixture was distributed between ether and water (500 ml), the ether extracts washed, dried and concentrated to a residue which on chromatography on silica gel using a hexane and then 20% ethylacetate/hexane system as eluant yielded 2(2-bromoethylthio)pyrrole (4.6 g). This was dissolved in dry N,N-dimethylformamide (80 ml), covered with an oxygen-free atmosphere, ice-bath cooled, and reacted with sodium hydride (1.2 g of 60% dispersion in mineral oil). After stirring overnight at ambient temperatures the reaction mixture was partitioned between ether and water, the ether layer washed with water until the dimethylformamide was removed, dried and concentrated to 2,3-dihydropyrrolo(2,1-b)thiazole.

reactant | 2-thiocyano-pyrrole | 8.7 g | S(C#N)C=1NC=CC1 | C5H4N2S
reactant | 1,2-dibromoethane | 155 ml | BrCCBr | C2H4Br2
reactant | oxygen | O=O | O2
reactant | sodium methoxide | 9.5 g | C[O-].[Na+]
solvent | water | 500 ml | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | methanol | 140 ml | CO | CH4O
product | 2(2-bromoethylthio)pyrrole | 4.6 g | BrCCSC=1NC=CC1 | C6H8BrNS
